US05807860
Acetone (84 ml) and water (8.4 ml) were added to N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea (5.0 g, 8.0 mmol). The mixture was added dropwise with concentrated hydrochloric acid (1.5 ml, 17 mmol) with stirring at room temperature, and then added with seed crystals. After stirring for 3 hours under ice cooling, the precipitated crystals were collected by filtration and dried at 60° C. under reduced pressure to give N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea dihydrochloride (5.1 g).

reactant | Acetone | 84 ml | CC(=O)C | C3H6O
reactant | N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea | 8.0 mmol, 5.0 g | N1(C=NC=C1)C=1C=CC(=C(C1)CN(C(=O)NC1=C(C=CC=C1C)OCCCN1CCN(CC1)C1=CC=CC=C1)CCCCC)OC | C37H48N6O3
reactant | hydrochloric acid | 17 mmol, 1.5 ml | Cl | ClH
solvent | water | 8.4 ml | O | H2O
product | N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea dihydrochloride | 5.1 g | Cl.Cl.N1(C=NC=C1)C=1C=CC(=C(C1)CN(C(=O)NC1=C(C=CC=C1C)OCCCN1CCN(CC1)C1=CC=CC=C1)CCCCC)OC | InChI=1S/C37H48N6O3.2ClH/c1-4-5-9-20-42(28-31-27-33(16-17-34(31)45-3)43-21-18-38-29-43)37(44)39-36-30(2)12-10-15-35(36)46-26-11-19-40-22-24-41(25-23-40)32-13-7-6-8-14-32;;/h6-8,10,12-18,21,27,29H,4-5,9,11,19-20,22-26,28H2,1-3H3,(H,39,44);2*1H
